US06730707B2
[3-(2-Acetylamino-ethyl)-2-bromo-1H-indol-5-yl]-carbamic Acid Methyl Ester
A solution of 5-methoxycarbonylamino-N-acetyltryptamine (0.05 mmol) in acetic acid (0.5 mL) is treated with N-bromosuccinimide (0.05 mmol) 3.5 h at 25° C. The solution is next neutralized with 50% sodium hydroxide solution and extracted with ethyl acetate. The organic extract is evaporated and the purified product obtained following chromatography on silica gel with 2% methanol-chloroform as eluent.

reactant | 5-methoxycarbonylamino-N-acetyltryptamine | 0.05 mmol | COC(=O)NC1=CC=C2NC=C(CCNC(C)=O)C2=C1 | C14H17N3O3
reactant | N-bromosuccinimide | 0.05 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
product | [3-(2-Acetylamino-ethyl)-2-bromo-1H-indol-5-yl]-carbamic Acid Methyl Ester | COC(NC=1C=C2C(=C(NC2=CC1)Br)CCNC(C)=O)=O | C14H16BrN3O3
